US04933405
B. Preparation of Zinc Dodecyl Fumarate
To a 12 percent w/v acetone suspension of the monododecyl fumarate heated to 50° C. is added 1.0 molar equivalent sodium hydroxide (299 g) as a 10 percent w/v aqueous solution. After the stirred suspension clears, 0.5 molar equivalent zinc acetate dihydrate (110 g) as a saturated aqueous solution is added with stirring. The supernatant liquid is separated from the precipitated zinc dodecyl fumarate.

reactant | monododecyl fumarate | C(\C=C\C(=O)[O-])(=O)OCCCCCCCCCCCC
reactant | sodium hydroxide | 1.0 molar, 299 g | [OH-].[Na+]
reactant | zinc acetate dihydrate | 0.5 molar, 110 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | acetone | CC(=O)C | C3H6O
product | Zinc Dodecyl Fumarate | C(\C=C\C(=O)[O-])(=O)OCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCC)OC(\C=C\C(=O)[O-])=O | InChI=1S/2C16H28O4.Zn/c2*1-2-3-4-5-6-7-8-9-10-11-14-20-16(19)13-12-15(17)18;/h2*12-13H,2-11,14H2,1H3,(H,17,18);/q;;+2/p-2/b2*13-12+;
